US08377980B2
Piperidine (1.0 mL, 10 mmol) was added to a solution of (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-4-methoxybutanoic acid (0.355 g, 1 mmol) in DMF (3 mL), and the mixture was stirred at rt for 3 h. The volatiles were removed and the residue was partitioned between sat. NaHCO3 (aq.) (5 mL) and EtOAc (5 mL). The aqueous layer was further washed with EtOAc and Et2O. To the aqueous solution was added Na2CO3 (212 mg, 2.0 mmol) followed by methyl chloroformate (0.16 mL, 2.0 mmol) and the reaction mixture was stirred at rt for 16 h. The reaction mixture was acidified with 1 N HCl (aq.) until pH <7 and then extracted with EtOAc (2×10 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated. The residue was purified by flash silica chromatography (EtOAc/hexanes, gradient from 20% to 70%) to yield (S)-4-methoxy-2-(methoxycarbonylamino)butanoic acid (Cap-194) (91.5 mg) as viscous colorless oil. LC-MS retention time=0.61 min; m/z 214 [M+Na]+. (Column: PHENOMENEX® Luna 3.0×50 mm S10. Solvent A=90% Water: 10% Methanol: 0.1% TFA. Solvent B=10% Water: 90% Methanol: 0.1% TFA. Flow Rate=4 mL/min. Start % B=0. Final % B=100. Gradient Time=3 min. Wavelength=220). 1H NMR (400 MHz, chloroform-d) δ ppm 7.41 (br. s., 1H), 5.74-6.02 (m, 1H), 4.32-4.56 (m, 1H), 3.70 (s, 3H), 3.54 (t, J=5.0 Hz, 2H), 3.34 (s, 3H), 1.99-2.23 (m, 2H).

reactant | Piperidine | 10 mmol, 1.0 mL | N1CCCCC1 | C5H11N
reactant | (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-4-methoxybutanoic acid | 1 mmol, 0.355 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CCOC | C20H21NO5
reactant | Na2CO3 | 2.0 mmol, 212 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl chloroformate | 2.0 mmol, 0.16 mL | ClC(=O)OC | C2H3ClO2
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)-4-methoxy-2-(methoxycarbonylamino)butanoic acid | 91.5 mg | COCC[C@@H](C(=O)O)NC(=O)OC | C7H13NO5
